US05708008
5-(pyrazine-2-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 20.0 mg (0.087 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 32 mg (0.131 mMol) pyrazine-2-carboxylic acid, 6.9 mg (24%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.087 mMol, 20.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | pyrazine-2-carboxylic acid | 0.131 mMol, 32 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
product | 5-(pyrazine-2-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 6.9 mg, 24% | N1=C(C=NC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H21N5O
